US06136157
4'-Phenylacetophenone.
Table 1, Entry 11. In the reaction tube were mixed 4-acetylphenyl triflate (0.268 g, 1.0 mmol), phenyltributyltin (0.441 g, 1.2 mmol), Pd2 dba3 (0.00916 g, 0.010 mmol), triphenylarsine (0.0245 g, 0.080 mmol), lithium chloride (0.127 g, 3.0 mmol) and 1.0 ml NMP.under nitrogen. The contents of the flask were irradiated for 2.50 min with an effect of 50 W. After cooling, addition of 1 M aqueous KF (4 ml) with stirring for 120 min, were followed by dilution (DCM) and filtration through a pad of celite. The filtrate was washed with water (25 ml). Additional extraction of the aqueous phase was performed with DCM (2×25 ml). The combined extracts were washed with 25 ml saline and concentrated to an oil. The crude product was purified by column chromatography on silica gel using i-hexane/ethyl acetate (10/1) as the eluent. The yield was 68% (white solid).

reactant | 4-acetylphenyl triflate | 1.0 mmol, 0.268 g | O(S(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(C)=O | C9H7F3O4S
reactant | phenyltributyltin | 1.2 mmol, 0.441 g | C1(=CC=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | triphenylarsine | 0.080 mmol, 0.0245 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | lithium chloride | 3.0 mmol, 0.127 g | [Cl-].[Li+]
reactant | KF | 1 M, 4 ml | [F-].[K+]
catalyst | Pd2 dba3 | 0.010 mmol, 0.00916 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | NMP | 1.0 ml | CN1CCCC1=O | C5H9NO
product | 4'-Phenylacetophenone | yield was 68% | C1(=CC=CC=C1)C1=CC=C(C=C1)C(C)=O | C14H12O
